*$
* INA155
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA155
* Date: 10FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS114
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Updated Pin order.
*
* Final 1.0  
* Release to Web
*
*****************************************************************************
.SUBCKT INA155 IN+ IN- V+ V- OUTPUT REF RG1 RG8
*****************************************************************************
* Components
R1 A2NEG OUTPUT 200K 
R2 A1OUT A2NEG 22.222K 
R3 REF A1NEG 200K 
R4 A1NEG A1OUT 22.222K 
RG1 A1NEG RG1 5K 
RG8 A2NEG RG8 5K 
ROPEN RG1 RG8 10000MEG 
XA1 IN- A1NEG V+ V- A1OUT OPA_INA155
XA2 IN+ A2NEG V+ V- OUTPUT OPA_INA155
.ENDS INA155
*****************************************************************************
.SUBCKT OPA_INA155 + - V+ V- OUT
*****************************************************************************
* Models
.MODEL DX D (RS=1 CJO=0.1P)
.MODEL NIX NMOS (VTO=0.75 KP=205.5U RD=1 RS=1 RG=1 RB=1 CGBO=16.667E-9 CBS=2.34E-13 CBD=2.34E-13)
.MODEL NOX NMOS (VTO=0.75 KP=195U RD=.5 RS=.5 RG=1 RB=1 CGBO=125E-9 CBS=2.34E-13 CBD=2.34E-13)
.MODEL PIX PMOS (VTO=-0.75 KP=205.5U RD=1 RS=1 RG=1 RB=1 CGBO=16.667E-9 CBS=2.34E-13 CBD=2.34E-13)
.MODEL POX PMOS (VTO=-0.75 KP=195U RD=.5 RS=.5 RG=1 RB=1 CGBO=125E-9 CBS=2.34E-13 CBD=2.34E-13)
* Components
C1 24 25 0.75P 
C15 OUT 39 50P 
C16 OUT 38 50P 
CC 21 OUT 10.5P 
D1 21 22 DX 
D2 23 21 DX 
D3 5 V+ DX 
D4 V- 66 DX 
D5 - V+ DX 
D6 + V+ DX 
D7 V- - DX 
D8 V- + DX 
ECM 24 98 POLY(2) + 98 - 98 0 0.5 0.5
EN 38 V- POLY(1) 21 98 0.78925 1
EOS 7 + POLY(1) 25 98 0 0
EP V+ 39 POLY(1) 98 21 0.78925 1
EREF 98 0 POLY(2) V+ 0 V- 0 0 0.5 0.5
G1 98 21 POLY(2) 4 33 9 8 0 145U 145U
GSY V+ V- POLY(1) V+ V- -3.334E-4 6.667E-5
I1 V+ 5 150U
IIN1 + 98 .2P
IIN2 - 98 .2P
IOS - + 0P
ISY V+ V- 450.4U
M1 33 - 66 V- NIX L=6U W=25U
M2 4 7 66 V- NIX L=6U W=25U
M3 8 - 5 5 PIX L=6U W=25U
M4 9 7 5 5 PIX L=6U W=25U
M7 550 VSWITCH 5 5 PIX L=6U W=25U M=4
M8 550 550 V- V- NIX L=6U W=25U M=4
M9 553A 550 V- V- NIX L=6U W=25U M=4
M9C 66 NVSAT 553A V- NIX L=6U W=25U M=4
M113 6H 39 V+ V+ POX L=1.5U W=1500U
M114 6L 38 V- V- NOX L=1.5U W=1500U
R1 V+ 33 4.833K 
R2 V+ 4 4.833K 
R3 8 V- 4.833K 
R4 9 V- 4.833K 
R5 24 25 1E6 
R6 25 98 10K 
RG 21 98 18.078E6 
V1 V+ 22 1.37
V2 23 V- 1.37
VH OUT 6H DC 1E-2
VL 6L OUT DC 1E-2
VNVSAT NVSAT V- DC 1.37
VPVSAT V+ VSWITCH DC 1.3
.ENDS OPA_INA155
*
